US07550478B2
Step 4: 3-chloro-7-(2,2-difluoro-1-hydroxyethyl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-ol
Sodium borohydride (15 mg, 0.4 mmol) was added to a slurry of 3-chloro-7-(difluoroacetyl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (60 mg, 0.19 mmol) in methanol (2 mL) at room temperature. The mixture was stirred for 20 minutes at which time it was quenched via the dropwise addition of 2N aqueous hydrochloric acid. Once gas evolution ceased, the solvent was removed in vacuo. The resulting residue was taken up in ethyl acetate and poured into saturated aqueous sodium bicarbonate. The aqueous layer was extracted with ethyl acetate three times. The combined organics were dried over magnesium sulfate, filtered, concentrated in vacuo, and purified via flash chromatography (silica, 0-50% ethyl acetate/hexanes) to afford the title compound. 1H NMR (600 MHz, CD3OD) δ 8.37 (s, 1H), 8.14 (s, 1H), 7.87 (d, 1H), 7.36 (m, 3H), 7.15 (dd, 1H), 5.82 (tt, 1H), 5.19 (s, 1H), 4.83-4.78 (m, 1H), 3.30 (s, 2H).

reactant | Sodium borohydride | 0.4 mmol, 15 mg | [BH4-].[Na+]
reactant | 3-chloro-7-(difluoroacetyl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 0.19 mmol, 60 mg | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)C(C(F)F)=O | C16H8ClF2NO2
solvent | methanol | 2 mL | CO | CH4O
product | 3-chloro-7-(2,2-difluoro-1-hydroxyethyl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-ol | ClC=1C=C2C(=NC1)C=CC1=C(C2O)C=C(C=C1)C(C(F)F)O | C16H12ClF2NO2
